US07902369B2
1) Manufacture of (6-bromo-2-quinolyl)-methyl(methylethyl)amine
Under nitrogen atmosphere, 180 mg of N-methylisopropylamine, and 200 g of potassium carbonate were added at room temperature sequentially to 5 ml solution of dimethylsulfonamide with 63 g of 2-chloro-6-bromoquinoline, and the mixture was stirred at 110° C. for 4 hours. Water was added to the reaction solution, extracted with ethyl acetate. Ethyl acetate layer was washed with saturated saline solution, and dried with anhydrous sodium sulfate. The solvents were distilled outunder reduced pressure, and the residues were separated and purified by silicagel chromatography (hexane/ethyl acetate=3/1) to obtain 18 mg of the above compound as a white solid.

reactant | N-methylisopropylamine | 180 mg | CNC(C)C | C4H11N
reactant | potassium carbonate | 200 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfonamide | CN(S(=O)=O)C | C2H7NO2S
reactant | 2-chloro-6-bromoquinoline | 63 g | ClC1=NC2=CC=C(C=C2C=C1)Br | C9H5BrClN
solvent | Water | O | H2O
product | (6-bromo-2-quinolyl)-methyl(methylethyl)amine | 18 mg | BrC=1C=C2C=CC(=NC2=CC1)N(C(C)C)C | C13H15BrN2
